US07192967B1
N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-3-pyridin-3-yl-acrylamide (substance 119)
Batch size: 7.8 g (35.4 mmol) N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide, 9.3 g (35.4 mmol) tripdhenylphosphine, 5.2 g (35.4 μmmol) phthalimide and 6.2 g (35.4 mmol) azodicarboxylic acid diethyl ester in 100 ml THF.

reactant | N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide | 35.4 mmol, 7.8 g | OCCCCNC(C=CC=1C=NC=CC1)=O | C12H16N2O2
reactant | phthalimide | 5.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | azodicarboxylic acid diethyl ester | 35.4 mmol, 6.2 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-3-pyridin-3-yl-acrylamide | O=C1N(C(C2=CC=CC=C12)=O)CCCCNC(C=CC=1C=NC=CC1)=O | C20H19N3O3
